US06518293B2
5-Dimethylaminomethylene-3-isopropylimidazolidine-2,4-dione
A mixture of 5 g of 3-isopropylimidazolidine-2,4-dione and 5 ml dimethylformamide dimethylacetal were heated at 100° C. for 3 s. The reaction mixture was cooled to rt and purified by flash chromatography to give 2 g of an orange solid. 1H NMR (400 MHz, deuteriochloroform): δ=1.42 (6H, d, J=7 Hz), 3.11 (6H, s), 4.40 (1H, septet, J=7 Hz), 6.64 (1H, s), 9.55 (1H, br s).

reactant | 3-isopropylimidazolidine-2,4-dione | 5 g | C(C)(C)N1C(NCC1=O)=O | C6H10N2O2
reactant | dimethylformamide dimethylacetal | 5 ml | COC(N(C)C)OC | C5H13NO2
product | 5-Dimethylaminomethylene-3-isopropylimidazolidine-2,4-dione | 2 g | CN(C)C=C1C(N(C(N1)=O)C(C)C)=O | C9H15N3O2
